.SubCkt GXT21BR71A475KE13 _net1 _net2
.param K01=2.8338e-06
.param M01=1.0638e+07
.param L02=1.1760e-10
.param M03=4.3778e-03
.param K04=5.4318e-05
.param M04=9.7669e+01
.param K05=8.8210e-05
.param M05=4.5880e+00
.param K06=8.1373e-05
.param M06=5.0333e-01
.param K07=6.6213e-05
.param M07=6.0990e-02
.param K08=5.3064e-05
.param M08=7.4564e-03
.param L09=3.0918e-11
.param M09=3.5961e-02
.param L10=2.2973e-10
.param M10=2.2756e-02
.param K11=9.7980e-06
.param L11=4.2720e-11
.param M11=6.6906e-03
.param K12=3.7325e-06
.param L12=5.2694e-11
.param M12=8.2569e-03
.param K13=8.4887e-12
.param L13=1.1188e-10
.param M13=1.4043e+01
.param K14=3.1667e-12
.param L14=1.0677e-10
.param M14=2.9879e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GXT21BC81A226ME13 _net1 _net2
.param K01=1.7021e-05
.param M01=2.2727e+06
.param L02=1.6012e-10
.param M03=2.1108e-03
.param K04=6.6731e-04
.param M04=7.9501e+00
.param K05=7.6501e-04
.param M05=7.7418e-01
.param K06=7.0256e-04
.param M06=9.9948e-02
.param K07=6.4491e-04
.param M07=1.2420e-02
.param K08=6.1912e-04
.param M08=1.9686e-03
.param L09=1.6150e-11
.param M09=5.4423e-02
.param L10=3.6563e-11
.param M10=2.0152e-02
.param L11=3.3670e-10
.param M11=1.3386e-02
.param K12=5.8268e-05
.param L12=6.4083e-11
.param M12=3.3459e-03
.param K13=2.2635e-05
.param L13=8.3101e-11
.param M13=3.6066e-03
.param K14=4.7651e-12
.param L14=8.4581e-11
.param M14=1.4727e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GXT21BR61C226ME13 _net1 _net2
.param K01=1.7021e-05
.param M01=2.2727e+06
.param L02=1.6012e-10
.param M03=2.1108e-03
.param K04=6.6731e-04
.param M04=7.9501e+00
.param K05=7.6501e-04
.param M05=7.7418e-01
.param K06=7.0256e-04
.param M06=9.9948e-02
.param K07=6.4491e-04
.param M07=1.2420e-02
.param K08=6.1912e-04
.param M08=1.9686e-03
.param L09=1.6150e-11
.param M09=5.4423e-02
.param L10=3.6563e-11
.param M10=2.0152e-02
.param L11=3.3670e-10
.param M11=1.3386e-02
.param K12=5.8268e-05
.param L12=6.4083e-11
.param M12=3.3459e-03
.param K13=2.2635e-05
.param L13=8.3101e-11
.param M13=3.6066e-03
.param K14=4.7651e-12
.param L14=8.4581e-11
.param M14=1.4727e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GXT21BR61E226ME13 _net1 _net2
.param K01=1.7021e-05
.param M01=2.2727e+06
.param L02=1.6012e-10
.param M03=2.1108e-03
.param K04=6.6731e-04
.param M04=7.9501e+00
.param K05=7.6501e-04
.param M05=7.7418e-01
.param K06=7.0256e-04
.param M06=9.9948e-02
.param K07=6.4491e-04
.param M07=1.2420e-02
.param K08=6.1912e-04
.param M08=1.9686e-03
.param L09=1.6150e-11
.param M09=5.4423e-02
.param L10=3.6563e-11
.param M10=2.0152e-02
.param L11=3.3670e-10
.param M11=1.3386e-02
.param K12=5.8268e-05
.param L12=6.4083e-11
.param M12=3.3459e-03
.param K13=2.2635e-05
.param L13=8.3101e-11
.param M13=3.6066e-03
.param K14=4.7651e-12
.param L14=8.4581e-11
.param M14=1.4727e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GXT21BC71E106KE13 _net1 _net2
.param K01=7.4763e-06
.param M01=5.0000e+06
.param L02=1.3693e-10
.param M03=2.7788e-03
.param K04=3.4416e-04
.param M04=1.0460e+01
.param K05=5.7292e-04
.param M05=1.1660e+00
.param K06=4.1673e-04
.param M06=2.5140e-01
.param K07=3.5484e-04
.param M07=3.9495e-02
.param K08=2.6236e-04
.param M08=6.4807e-03
.param L09=9.1972e-12
.param M09=4.2750e-02
.param L10=4.1275e-11
.param M10=2.2377e-02
.param L11=2.2629e-10
.param M11=1.4211e-02
.param K12=2.2981e-05
.param L12=6.4579e-11
.param M12=5.5038e-03
.param K13=9.3468e-06
.param L13=7.5054e-11
.param M13=6.5481e-03
.param K14=9.8840e-12
.param L14=7.1337e-11
.param M14=1.4988e+01
.param K15=2.9848e-12
.param L15=8.1724e-11
.param M15=1.9934e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GXT21BR71E225KE13 _net1 _net2
.param K01=1.8507e-06
.param M01=2.2727e+07
.param L02=1.4094e-10
.param M03=4.8338e-03
.param K04=1.7694e-05
.param M04=3.8625e+02
.param K05=5.6661e-05
.param M05=8.4873e+00
.param K06=4.9197e-05
.param M06=9.8666e-01
.param K07=3.9141e-05
.param M07=1.2258e-01
.param K08=2.9159e-05
.param M08=1.6442e-02
.param L09=7.2979e-12
.param M09=4.4141e-02
.param L10=2.2185e-11
.param M10=3.1233e-02
.param L11=2.4020e-10
.param M11=3.0780e-02
.param K12=5.4611e-06
.param L12=4.7306e-11
.param M12=1.2006e-02
.param K13=2.7779e-06
.param L13=4.6482e-11
.param M13=1.1807e-02
.param K14=1.0752e-11
.param L14=6.8631e-11
.param M14=8.2842e+00
.param K15=5.9904e-12
.param L15=4.9359e-11
.param M15=7.2921e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GXT21BR71H105KE01 _net1 _net2
.param K01=1.0114e-06
.param M01=5.0000e+07
.param L02=1.0482e-10
.param M03=3.9514e-03
.param K04=2.8269e-05
.param M04=2.3626e+02
.param K05=1.5818e-04
.param M05=1.5993e+00
.param K06=1.6003e-04
.param M06=1.4511e-01
.param K07=1.3474e-04
.param M07=1.6804e-02
.param K08=1.3243e-04
.param M08=1.8042e-03
.param L09=1.8477e-10
.param M09=3.3225e-02
.param L10=1.3154e-11
.param M10=2.5936e-02
.param K11=3.3924e-06
.param L11=4.7842e-11
.param M11=1.8482e-02
.param K12=1.9636e-06
.param L12=3.6686e-11
.param M12=1.8190e-02
.param K13=1.1918e-11
.param L13=9.4403e-11
.param M13=9.2846e+00
.param K14=2.3539e-12
.param L14=1.2877e-10
.param M14=1.8460e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GXT21BR71C225KE01 _net1 _net2
.param K01=2.1206e-06
.param M01=2.2727e+07
.param L02=2.1665e-10
.param M03=3.8461e-03
.param K04=2.9402e-04
.param M04=7.1576e+00
.param K05=4.4863e-04
.param M05=1.0094e+00
.param K06=3.8949e-04
.param M06=2.8810e-01
.param K07=3.8988e-04
.param M07=8.3696e-02
.param K08=2.9099e-04
.param M08=2.3573e-02
.param K09=1.6619e-04
.param M09=5.7697e-03
.param L10=2.3482e-11
.param M10=6.6113e-02
.param L11=1.1325e-10
.param M11=1.2924e-02
.param L12=8.1315e-11
.param M12=1.1298e-02
.param L13=4.6260e-11
.param M13=6.8100e-03
.param K14=1.0520e-05
.param L14=3.7113e-11
.param M14=1.0455e-02
.param K15=1.9611e-06
.param L15=8.8268e-11
.param M15=1.1183e-02
.param K16=9.1989e-12
.param L16=7.6057e-11
.param M16=1.0219e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 
